US05484761
2-Chloro-6-trifluoromethylpyridine (5.0 g, 27.6 mmol) was dissolved in tert-butyl alcohol (135 mL). Potassium tert-butoxide (25.0 g, 220 mmol) was added and the mixture was refluxed under nitrogen for 20 h. After cooling, cold 3N HCl was carefully added to the flask until the pH was approximately 1-2. The resulting solution was extracted several times with methylene chloride. The organic layers were dried (MgSO4) and evaporated. This residue was then treated with trifluoroacetic acid 1.5 mL) at 80° C. for 2 h. The solution was neutralized with aqueous sodium bicarbonate and extracted several times with methylene chloride. The organic layer was dried (MgSO4), filtered and evaporated in-vacuo. The residue was recrystallized from methylene chloride and hexane to give 6-trifluoromethyl-2-pyridinol (2.8 g, 62% yield) as a white solid, mp=117° C. -118 ° C. Anal. Calcd. for C6H4NOF3 : C, 44.19; H, 2.47; N, 8.59

reactant | 2-Chloro-6-trifluoromethylpyridine | 27.6 mmol, 5.0 g | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
reactant | Potassium tert-butoxide | 220 mmol, 25.0 g | CC(C)([O-])C.[K+]
reactant | HCl | 3N | Cl | ClH
solvent | tert-butyl alcohol | 135 mL | C(C)(C)(C)O | C4H10O
product | 6-trifluoromethyl-2-pyridinol | 2.8 g, 62% yield | FC(C1=CC=CC(=N1)O)(F)F | C6H4F3NO
